US05344928
N-(4-Aminobutyl)-N-methylaniline
Lithium aluminium hydride (2 g) was added to dry ether (50 ml) in a stream of nitrogen, and a solution of N-(3-cyanopropyl)-N-methylaniline (9 g) in dry ether (10 ml) was added dropwise. The mixture was stirred for 1 hour and then heated under reflux for 2 hours. After decomposition of the excess reducing agent with ethyl acetate, the organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated to obtain the desired compound (9.8 g) as colorless oil.

reactant | Lithium aluminium hydride | 2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-(3-cyanopropyl)-N-methylaniline | 9 g | C(#N)CCCN(C1=CC=CC=C1)C | C11H14N2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | N-(4-Aminobutyl)-N-methylaniline | 9.8 g | NCCCCN(C1=CC=CC=C1)C | C11H18N2
